US08242125B2
4-Fluoro-5-(6-methanesulfonylmethyl-pyrimidin-4-yloxy)-2-methyl-1H-indole (250 mg, 0.745 mmol) in THF (10 mL) is cooled to −78° C. and a 1 M solution of LiHMDS in THF (1.86 mL, 1.86 mmol) is added. After 12 min 1-isocyanato-3-(trifluoromethyl)-benzene (0.12 mL, 0.895 mmol) is added and the reaction is allowed to stir at −78° C. After 1 h the reaction is quenched with saturated aqueous NH4Cl and then extracted with with (3×100 mL) EtOAc, The organic phases are combined and washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue is purified FCC (0-3% MeOH/DCM) to provide 4-fluoro-5-(6-methanesulfonylmethyl-pyrimidin-4-yloxy)-2-methyl-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide. MS (ESI) m/z 523.1 (M+1); 1H NMR (400 MHz, DMSO-d6) δ ppm 10.99 (s, 1H), 8.77 (d, J=1.01 Hz, 1H), 8.12 (s, 1H), 7.91 (s, 1H), 7.66 (s, 1H), 7.53 (d, J=9.35 Hz, 2H), 7.36 (d, J=1.01 Hz, 1H), 7.20 (d, J=7.33 Hz, 1H), 6.64 (s, 1H), 4.73 (s, 2H), 3.13 (s, 3H), 2.59 (s, 3H).

reactant | 4-Fluoro-5-(6-methanesulfonylmethyl-pyrimidin-4-yloxy)-2-methyl-1H-indole | 0.745 mmol, 250 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC(=C1)CS(=O)(=O)C)C | C15H14FN3O3S
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1-isocyanato-3-(trifluoromethyl)-benzene | 0.895 mmol, 0.12 mL | N(=C=O)C1=CC(=CC=C1)C(F)(F)F | C8H4F3NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1.86 mmol, 1.86 mL | C1CCOC1 | C4H8O
product | 4-fluoro-5-(6-methanesulfonylmethyl-pyrimidin-4-yloxy)-2-methyl-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C(=CC2=C(C(=CC=C12)OC1=NC=NC(=C1)CS(=O)(=O)C)F)C)(F)F | C23H18F4N4O4S
